US08048902B2
Synthesis of {3-Methyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-isoxazol-4-yl}-carbamic acid 1-(2-chloro-phenyl)-ethyl ester
[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid 1-(2-chloro-phenyl)-ethyl ester (3.48 g, 8.0 mmol), bis(pinacolato)diboron (2.24 g, 8.8 mmol), and potassium acetate (2.88 g, 32.0 mmol) were combined in 1,4-dioxane (200 mL) under N2. The solution was purged with N2 for 10 minutes, and then (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) (0.652 g, 0.8 mmol) was added and the reaction was heated to 80° C. for 6 hours, and then cooled to room temperature and stirred overnight. The mixture was diluted with water and extracted with EtOAc. The combined organic layers were washed twice with water and once with brine, and the combined aqueous layers were back-extracted with EtOAc. The combined organic layers were concentrated and the residue was purified by silica gel chromatography (0-100% EtOAc in hexanes) to give the title compound.

reactant | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid 1-(2-chloro-phenyl)-ethyl ester | 8.0 mmol, 3.48 g | ClC1=C(C=CC=C1)C(C)OC(NC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O | C19H16BrClN2O3
reactant | bis(pinacolato)diboron | 8.8 mmol, 2.24 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 32.0 mmol, 2.88 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 200 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) | 0.8 mmol, 0.652 g | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | {3-Methyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-isoxazol-4-yl}-carbamic acid 1-(2-chloro-phenyl)-ethyl ester | ClC1=C(C=CC=C1)C(C)OC(NC=1C(=NOC1C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C25H28BClN2O5
